*****************************************************************
* NXP BUK9K52-60E
*
* Polarity N-Channel
* Ratings 60V/5.200000E-002OHMS/17A
*
* Date Created Thu Jul 05 00:35:25 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K52-60E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0274075203846807 TC=0.00462883302893162,1.63906957487445E-05
RBD 9 4 0.0040521366411977 TC=0.00462883302893162,1.63906957487445E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 5.04e-10
RG 1 2 8.47663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	320.343
+ -16	319.771
+ -10	317.816
+ -5	313.246
+ -4	311.083
+ -3	305.414
+ -2	425.37
+ -1	268.202
+ -0.5	162.029
+ -0.2	113.384
+ -0.1	106.708
+ 0	100.638
+ 0.1	93.954
+ 0.2	90.537
+ 0.5	84.273
+ 1	75.943
+ 2	62.836
+ 3	56.865
+ 4	54.046
+ 5	52.462
+ 6	51.282
+ 8	49.55
+ 10	48.205
+ 12	47.022
+ 15	45.459
+ 20	43.184
+ 30	39.75



.MODEL MINT NMOS(Vto=1.99695950596778 Kp=2.571812e+001 Nfs=690000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=5.01511995119973e-13
+ N=1 M=0.63 VJ=0.61 Fc=0.5 Cjo=2.1905e-10 Tt=1.77e-08)

.ENDS
